US07534894B2
Boron tribromide (44.8 mL of a 1 M solution in methylene chloride; 44 mmol) was added under nitrogen dropwise over 30 minutes to a solution of N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide (6.8 g, 14.7 mmol), prepared in the previous step, in 150 mL of methylene chloride at dry ice-acetone temperature. After the addition the dry ice-acetone bath was replaced with an ice bath and the stirring continued for 3 h. At ice bath temperature 60 mL of water was added dropwise. The reaction was then partitioned between additional amounts of methylene chloride and water. The aqueous layer was separated and extracted three times with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure to give N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide (4.7 g, 71%) as a solid, mp 237-239° C. Elemental Analysis for C24H21BrN2O2. Calc'd: C, 64.15; H, 4.71; N, 6.23. Found: C, 62.15; H, 4.63; N, 5.97.

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide | 14.7 mmol, 6.8 g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C25H23BrN2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | 60 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide | 4.7 g, 71% | BrC=1C=C(C=CC1O)C1=CC=C(C=C1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C24H21BrN2O2
